US09301951B2
3-(benzyl(methyl)amino)-N-(2-methoxyethyl)propanamide
To methyl 3-(benzyl(methyl)amino)propanoate (1.5 g, 7.24 mmol, 1.00 equiv) was added 2-methoxyethanamine (11 g, 146.45 mmol, 20.00 equiv) and the mixture was stirred for 2 days at 100° C. in sealed tube. The resulting mixture was concentrated under vacuum and purified via silica gel chromatography (dichloromethane/methanol 30:1) to afford 1.1 g (61%) of the product as a yellow oil.

reactant | methyl 3-(benzyl(methyl)amino)propanoate | 7.24 mmol, 1.5 g, 1.00 equiv | C(C1=CC=CC=C1)N(CCC(=O)OC)C | C12H17NO2
reactant | 2-methoxyethanamine | 146.45 mmol, 11 g, 20.00 equiv | COCCN | C3H9NO
product | 3-(benzyl(methyl)amino)-N-(2-methoxyethyl)propanamide | 1.1 g, 61% | C(C1=CC=CC=C1)N(CCC(=O)NCCOC)C | C14H22N2O2
